US06391882B1
Lithium aluminium hydride (15 g) was suspended in tetrahydrofuran (400 mL) under a nitrogen atmosphere followed by dropwise addition of a solution of methyl 5-fluorobenzofuran-3-carboxylate (58 g) in tetrahydrofuran (300 mL). The temperature increased to 55° C. during the addition. After stirring for 2 h the reaction was quenched succesively with water (30 mL), 15% aq. sodium hydroxide (15 mL), and water (75 mL). Further tetrahydrofuran (500 mL) was added and the mixture stirred for 1 h. The mixture was filtered and the precipitate extracted with a mixture of methylene chloride (1 L) and ethanol (0.5 L). The combined organic phases were concentrated in vacuo giving an oil which was applied to silica gel flash chromatography (eluent: methylene chloride/25% aq. NH3 99:1). The resulting yellow oil, 5-fluorobenzofuran-3-ylmethanol (14.4 g) crystallised on standing. A solution of 5-fluorobenzofuran-3-ylmethanol (14 g) in methylene chloride (250 mL) was treated succesively with 5 drops of dimethylformamide and thionyl chloride (28 mL). After stirring for 16 h at room temperature the reaction was concentrated in vacuo giving 3-chloromethyl-5-fluorobenzofuran as an oil (19.4 g). A suspension of sodium cyanide (10 g) in dimethylsulfoxide (150 mL) was heated to 80° C. followed by quick addition of a solution of 3-chloromethyl-5-fluorobenzofuran (10 g) in dimethylsulfoxide (50 mL). The mixture was kept at 80° C. for ½ h and then poured onto ice. Standard work-up with diethyl ether gave a dark crystalline material, 5-fluorobenzofuran-3-ylacetonitrile (8.8 g).

reactant | Lithium aluminium hydride | 15 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 5-fluorobenzofuran-3-carboxylate | 58 g | FC=1C=CC2=C(C(=CO2)C(=O)OC)C1 | C10H7FO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3-chloromethyl-5-fluorobenzofuran | 19.4 g | ClCC1=COC2=C1C=C(C=C2)F | C9H6ClFO
